US06518301B1
1,3.5-Trihydroxybenzaldehyde (1.01 g, 6.95 mmol) and 3-bromo-4-hydroxyphenylacetic acid (1.44 g, 6.25 mmol) were suspended in POCl3 (4 mL). After 1 min, an exothermic reaction occurred. The mixture was allowed to cool to room temperature. Zinc chloride (1M ether solution, 4.7 mmol) was added and the mixture was heated at 75° C. for 1 h. After cooling, the mixture was partitioned in ethyl acetate and 1 M aqueous HCl. The organic layer was washed with brine and dried with MgSO4. Purification on silica gel (MeOH/dichloromethane, gradient) afforded 1-(2,4,6-trihydroxyphenyl)-2-(3-bromo-4-hydroxyphenyl)ethanone (390 mg) as a tan solid.

reactant | 1,3.5-Trihydroxybenzaldehyde | 6.95 mmol, 1.01 g | OC1(C=O)CC(=CC(=C1)O)O | C7H8O4
reactant | 3-bromo-4-hydroxyphenylacetic acid | 6.25 mmol, 1.44 g | BrC=1C=C(C=CC1O)CC(=O)O | C8H7BrO3
solvent | POCl3 | 4 mL | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | Zinc chloride | 4.7 mmol, 1M | [Cl-].[Zn+2].[Cl-]
product | 1-(2,4,6-trihydroxyphenyl)-2-(3-bromo-4-hydroxyphenyl)ethanone | 390 mg | OC1=C(C(=CC(=C1)O)O)C(CC1=CC(=C(C=C1)O)Br)=O | C14H11BrO5
